US05221676
7-[3-[4-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl-6,7-difluoro 1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.88 g, 3.3 mmol) and 1,1-dimethylethyl[[4-(3 pyrrolidinyl)-phenyl]methyl]carbamate, a procedure analogous to that given in Example 6 provided the title compound (1.02 g) as a bright yellow solid, mp 268°-272° C.

reactant | 1-cyclopropyl-6,7-difluoro 1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.3 mmol, 0.88 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 1,1-dimethylethyl[[4-(3 pyrrolidinyl)-phenyl]methyl]carbamate | CC(C)(C)N(C([O-])=O)CC1=CC=C(C=C1)C1CNCC1
product | 7-[3-[4-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.02 g | NCC1=CC=C(C=C1)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C24H24FN3O3
